US08293913B2
Benzyl 6-(3-(phenylsulfonyl)quinolin-8-yl)-3,6-diazabicyclo[3.2.0]heptane-3-carboxylate
A solution of sodium t-butoxide (49 mg, 0.51 mmol) and (1S,5S)-benzyl 3,6-diazabicyclo[3.2.0]heptane-3-carboxylate (98 mg, 0.24 mmol) in toluene (3 mL) was stirred under nitrogen. To this was added tri-t-butylphosphine (25 mg, 0.05 mmol), palladium (II) acetate (6.9 mg, 0.03 mmol) and 8-iodo-3-(phenylsulfonyl)quinoline (80 mg, 0.202 mmol). The mixture was then heated at 60° C. for 2 h before partitioning between CH2Cl2 and water. The mixture was filtered through Celite and the organic phase was separated. The water phase was extracted twice with CH2Cl2 and the combined extracts dried (Na2SO4), filtered and concentrated in vacuo to provide the crude material, which was purified by flash chromatography to give the title compound.

reactant | sodium t-butoxide | 0.51 mmol, 49 mg | CC(C)([O-])C.[Na+]
reactant | (1S,5S)-benzyl 3,6-diazabicyclo[3.2.0]heptane-3-carboxylate | 0.24 mmol, 98 mg | [C@@H]12CN(C[C@H]2NC1)C(=O)OCC1=CC=CC=C1 | C13H16N2O2
reactant | tri-t-butylphosphine | 0.05 mmol, 25 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | 8-iodo-3-(phenylsulfonyl)quinoline | 0.202 mmol, 80 mg | IC=1C=CC=C2C=C(C=NC12)S(=O)(=O)C1=CC=CC=C1 | C15H10INO2S
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 0.03 mmol, 6.9 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Benzyl 6-(3-(phenylsulfonyl)quinolin-8-yl)-3,6-diazabicyclo[3.2.0]heptane-3-carboxylate | C1(=CC=CC=C1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)N1C2CN(CC2C1)C(=O)OCC1=CC=CC=C1 | C28H25N3O4S
